US07576078B2
6-Fluoro-7-methyl-1-[3-(4-propoxypiperidin-1-yl)propyl]-3,4-dihydro-1H-quinolin-2-one (107LH93-2)
A reaction flask was charged with 6-fluoro-7-methyl-3,4-dihydro-1H-quinolin-2-one (0.150 g, 0.84 mmol) in dry DMF (1 mL) under N2. NaH (60% in oil, 0.038 g, 0.92 mmol) was added and stirred at rt for 30 min. Then 3-chloro-1-iodopropane (0.131 g, 0.84 mmol) was added followed by stirring at r.t for 20 h. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The crude material was dissolved in MeCN (2 mL) followed by addition of 4-propoxypiperidine (0.086 g, 0.6 mmol), NaI (0.150 g, 1.0 mmol), and K2CO3 (0.138 g, 1.0 mmol) and shaken at 50° C. for 20 h. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The residue was purified by cation exchange CC followed by flash CC (SiO2; EtOAc) to give the title compound (107LH93-2) (0.171 g, total yield 56%). 1H NMR (CH3OD) δ 7.00 (d, J=6.4 Hz, 1H), 6.87 (d, J=9.2 Hz, 1H), 3.94 (brt, J=7.2 Hz, 2H), 3.39 (t, J=6.6 Hz, 2H), 3.35-3.26 (m, 1H), 2.85-2.70 (m, 4H), 2.58-2.51 (m, 2H), 2.39 (brt, 7.4 Hz, 2H), 2.24 (d, J=1.6 Hz, 3H), 2.21-2.12 (m, 2H), 1.92-1.75 (m, 4H), 1.62-1.48 (m, 4H), 0.91 (t, J=7.4 Hz); 13C NMR (CH3OD) δ 171.0, 157.1 (d, J=241), 135.2 (d, J=3 Hz), 126.5 (d, J=8 Hz), 123.2 (d, J=18 Hz), 118.1 (d, J =5 Hz), 114.3 (d, J=24 Hz), 74.6, 69.5, 55.4, 51.0, 40.4, 31.5, 30.9, 24.7, 24.5, 23.2, 13.5 (br), 10.0.

reactant | 6-fluoro-7-methyl-3,4-dihydro-1H-quinolin-2-one | 0.84 mmol, 0.150 g | FC=1C=C2CCC(NC2=CC1C)=O | C10H10FNO
reactant | NaH | 0.92 mmol, 0.038 g | [H-].[Na+]
reactant | 3-chloro-1-iodopropane | 0.84 mmol, 0.131 g | ClCCCI | C3H6ClI
reactant | 4-propoxypiperidine | 0.6 mmol, 0.086 g | C(CC)OC1CCNCC1 | C8H17NO
reactant | NaI | 1.0 mmol, 0.150 g | [Na+].[I-]
reactant | K2CO3 | 1.0 mmol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Fluoro-7-methyl-1-[3-(4-propoxypiperidin-1-yl)propyl]-3,4-dihydro-1H-quinolin-2-one | 0.171 g, yield 56% | FC=1C=C2CCC(N(C2=CC1C)CCCN1CCC(CC1)OCCC)=O | C21H31FN2O2
